US04988695
(d) 1-(2-Methylphenyl)-2,3-dihydropyrrolo[3,2-c]cinnoline.
4-Chloro-3-(2-chloroethyl)cinnoline (1.52 g, 0.0067 mol) and o-toluidine (1.43 g, 0.0134 mol) in 1,4 dioxan (20 ml) were heated under reflux for 20 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between chloroform and dilute sodium bicarbonate solution. The aqueous layer was extracted with chloroform (6×50 ml). The chloroform extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a brown oil. The oil was purified by chromatography using chloroform (1 litre), chloroform/methanol (20:I) as eluant. The fractions containing the product were combined and evaporated under reduced pressure to give an oil. On trituration with diethyl ether a solid was obtained. The solid was collected by filtration and dried, 0.76 g. Recrystallization from ethyl acetate gave the title compound, 0.48 g, m.p. 140-142°.

reactant | 4-Chloro-3-(2-chloroethyl)cinnoline | 0.0067 mol, 1.52 g | ClC1=C(N=NC2=CC=CC=C12)CCCl | C10H8Cl2N2
reactant | o-toluidine | 0.0134 mol, 1.43 g | NC=1C(=CC=CC1)C | C7H9N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,4 dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 1-(2-Methylphenyl)-2,3-dihydropyrrolo[3,2-c]cinnoline | CC1=C(C=CC=C1)N1CCC=2N=NC=3C=CC=CC3C21 | C17H15N3
